US05583221
EXAMPLE 9 8-Methyl-8-azabicyclo[3.2.1]octan-2,3-dione-2-oxime
A solution of 8-methyl-8-azabicyclo[3.2.1]octan-3-one (2.79 g, 20 mmol) in anhydrous tetrahydrofuran (40 mL) under nitrogen was cooled (-68° C.) and treated (via syringe) with 1.0N lithium bis(trimethylsilyl)amide/tetrahydrofuran (36 mL, 36 mmol) at a rate to keep the pot temperature below -55° C. The mixture was warmed to 0° C., then recooled (-68° C.), and treated dropwise with a solution of n-butyl nitrite (2.6 mL, 22 mmol) in anhydrous tetrahydrofuran (15 mL) at a rate to keep the pot temperature below -60° C. The mixture was warmed to room temperature over one h, stirred for one h, and quenched with saturated ammonium chloride (15 mL). The organic layer was separated and the aqueous solution was extracted with toluene (50 mL) containing some 2-propanol. The combined organic solution was dried (Na2SO4) and concentrated in vacuo. The residue was chromatographed on silica gel (eluted with 9:1 ethyl acetate/methanol, then with 3:2 ethyl acetate/methanol) to afford, first, 8-methyl-8-azabicyclo[3.2.1]octane-2,3-dione-2-oxime (0.43 g, 13%, beige solid), then recovered starting material (1.40 g). Product yield was 26% based on recovered starting material.

reactant | 8-methyl-8-azabicyclo[3.2.1]octan-3-one | 20 mmol, 2.79 g | CN1C2CC(CC1CC2)=O | C8H13NO
reactant | lithium bis(trimethylsilyl)amide tetrahydrofuran | 36 mmol, 1.0N, 36 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+].O1CCCC1
reactant | n-butyl nitrite | 22 mmol, 2.6 mL | N(=O)OCCCC | C4H9NO2
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 8-Methyl-8-azabicyclo[3.2.1]octan-2,3-dione-2-oxime | yield was 26% | CN1C2C(C(CC1CC2)=O)=NO | C8H12N2O2
